US03987047
1,2,4,5-Tetrahydro-11-methyl-8-trifluoromethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-11-methyl-8-trifluoromethyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 155.

reactant | 1,2,4,5-tetrahydro-11-methyl-8-trifluoromethyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=C(C=CC13)C(F)(F)F)CCNCC2 | C15H15F3N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-11-methyl-8-trifluoromethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 98% | Cl.C(C)OC(=O)N1CCC2=NC=3C=C(C=CC3C(=C2CC1)C)C(F)(F)F | InChI=1S/C18H19F3N2O2.ClH/c1-3-25-17(24)23-8-6-14-11(2)13-5-4-12(18(19,20)21)10-16(13)22-15(14)7-9-23;/h4-5,10H,3,6-9H2,1-2H3;1H
